US07449456B2
A 4 ml portion of DMF solution containing 352 mg of 2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxylic acid was mixed with 223 mg of WSC hydrochloride, 157 mg of HOBt and 103 mg of 2-dimethylaminoethylamine, followed by stirring overnight at room temperature. The reaction mixture was diluted with water and then extracted with ethyl acetate. The organic layer was washed with saturated brine and then the solvent was evaporated. The resulting residue was purified by a silica gel column chromatography (chloroform:methanol:aqueous ammonia) and then recrystallized (hexane-ethyl acetate) to obtain 291 mg of N-(2-dimethylaminoethyl)-2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide as colorless crystals.

reactant | 2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxylic acid | 352 mg | OC1=CC=C(C=C1)CCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)O | C20H20N4O3
reactant | WSC hydrochloride | 223 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 157 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-dimethylaminoethylamine | 103 mg | CN(CCN)C | C4H12N2
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-dimethylaminoethyl)-2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide | 291 mg | CN(CCNC(=O)C=1C(=NC(=NC1)NCCC1=CC=C(C=C1)O)NC1=CC(=CC=C1)C)C | C24H30N6O2
